US05605914
A stirred mixture of 4-methylphthalic acid anhydride (1.62 g, 10.0 mmol) and 3-amino-3-phenylpropionic acid (1.65 g, 10.0 mmol) in 15 mL of acetic acid under nitrogen was heated to reflux for 6 hours. The resulting reaction solution was concentrated in vacuo to an oil which was crystallized from 20 mL of a 1/1 mixture of ethyl acetate/hexane to afford 1.69 g (55%) of 3-(4-methylphthalimido)-3-phenylpropionic acid as an off-white powder: 1H NMR (DMSO-d6) δ 12.5 (br s, 1 H, COOH), 7.85-7.55 (m, 3 H, Ar), 7.55-7.2 (m, 5 H, Ar), 5.68 (dd, 1 H, J=9, 7 Hz, CH), 3.51 (dd, 1 H, J=9, 16.5 Hz), 3.29 (dd, 1 H, J=9, 16.5 Hz), 2.47 (s, 3 H, CH3). Anal. Calcd for C18H15N1O4. Theory; C, 69.89, H, 4.89, N, 4.53. Found: C, 69.45, H, 4.93, N, 4.55. HPLC: 95%.

reactant | 4-methylphthalic acid anhydride | 10.0 mmol, 1.62 g | CC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O3
reactant | 3-amino-3-phenylpropionic acid | 10.0 mmol, 1.65 g | NC(CC(=O)O)C1=CC=CC=C1 | C9H11NO2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 3-(4-methylphthalimido)-3-phenylpropionic acid | 1.69 g, 55% | CC=1C=C2C(C(=O)N(C2=O)C(CC(=O)O)C2=CC=CC=C2)=CC1 | C18H15NO4
